US04143166
Dimethylformamide (0.4 g.), phosphorus oxychloride (0.81 g.), methylene chloride (20 ml.), ethyl acetate (10 ml.) and 2-[2-(2-thienyl)acetoxyimino]-2-(3-hydroxyphenyl)acetic acid (syn isomer) (1.68 g.) were treated in a manner as in example 1(B) to give an ethyl acetate solution. On the other hand, 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1.64 g.) and bis(trimethylsilyl)acetamide (3.55 g.) were dissolved in ethyl acetate (20 ml.) and stirred at -20° C., to which was added the above obtained solution. Then the reaction mixture was stirred for 1 hour at the same temperature. Water was added thereto and the mixture was stirred for 10 minutes. The ethyl acetate layer was separated. The aqueous layer was extracted with ethyl acetate. Two ethyl acetate layers were combined. The extract was washed with a saturated aqueous solution of sodium chloride and dried. The solvent was distilled off. The residue was pulverized with a mixed solution of diisopropylether and ether, collected by filtration and washed to give 7-[2-{2-(2-thienyl)acetoxyimino}-2-(3-hydroxyphenyl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.2 g.).

reactant | phosphorus oxychloride | 0.81 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-[2-(2-thienyl)acetoxyimino]-2-(3-hydroxyphenyl)acetic acid | 1.68 g | S1C(=CC=C1)CC(=O)ON=C(C(=O)O)C1=CC(=CC=C1)O | C14H11NO5S
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.64 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
reactant | bis(trimethylsilyl)acetamide | 3.55 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | Dimethylformamide | 0.4 g | CN(C=O)C | C3H7NO
product | 7-[2-{2-(2-thienyl)acetoxyimino}-2-(3-hydroxyphenyl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.2 g | S1C(=CC=C1)CC(=O)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C1=CC(=CC=C1)O | C24H21N7O7S3
